US06713499B2
4-Fluoro-N-{4-methoxy-7-[(4-methoxy-benzyl)-methyl-amino]-benzothiazol-2-yl}-benzamide
From 4-methoxy-N7-methyl-benzothiazole-2,7-diamine with potassium carbonate and 4-methoxybenzyl chloride in DMF, then treatment with 4-fluorobenzoic acid, HATU and N-ethyldiisopropylamine in THF. ES-MS m/e (0/o): 452 (M+H+, 100).

reactant | 4-methoxy-N7-methyl-benzothiazole-2,7-diamine | COC1=CC=C(C2=C1N=C(S2)N)NC | C9H11N3OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 4-Fluoro-N-{4-methoxy-7-[(4-methoxy-benzyl)-methyl-amino]-benzothiazol-2-yl}-benzamide | FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N(C)CC3=CC=C(C=C3)OC)OC)C=C1 | C24H22FN3O3S
